US05098929
2-Benzyloxymethyl-2-cyclohexyl-propan-1,3-diol(3 g.),2,2-dimethoxypropane (8 ml), p-toluenesulphonic acid (150 mg.) and molecular sieves (type 4A) were heated in refluxing dry toluene (50 ml.) for four hours. The mixture was cooled and filtered. The filtrate was diluted with ether and the ethereal solution was extracted with aqueous sodium hydrogen carbonate solution. The ethereal solution was washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was purified by chromatography on silica, eluting with 1:5 ether:hexane. 5-Benzyloxymethyl-5-cyclohexyl-2,2-dimethyl-1,3-dioxane(3.0 g) was obtained as a colourless oil.

reactant | 2-Benzyloxymethyl-2-cyclohexyl-propan-1,3-diol | 3 g | C(C1=CC=CC=C1)OCC(CO)(CO)C1CCCCC1 | C17H26O3
reactant | 2,2-dimethoxypropane | 8 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulphonic acid | 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Benzyloxymethyl-5-cyclohexyl-2,2-dimethyl-1,3-dioxane | 3.0 g | C(C1=CC=CC=C1)OCC1(COC(OC1)(C)C)C1CCCCC1 | C20H30O3
